Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],-2.66981222949
[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2]([H:3])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.37781717406
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],7.36688272272
[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3](#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11][H:12].[H:1][C:2][H:13],6.7460797364100005
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[O:9][H:10].[H:8],4.836269929009999
[H:1][O:2][C:3]([H:4])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.2111410197
[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]/[C:3]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],3.43405531401
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12].[H:13],3.7165958318
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[H:9],4.39422137809
[H:5].[O:1]=[C:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10],-1.4042125660100002
[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9],-5.727085118330001
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[O:11]>>[H:1][C:2]1[C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[O:11]1,0.2282871830999999
[O:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2][C:5]([H:3])([H:4])[H:10].[O:6]=[C:7]([H:8])[H:9],0.57898433922
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],0.7737046960780001
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],3.95203431668
[C:1]#[C:2][C:4][C:5]([H:6])[H:9].[C:3]#[C:7][H:8]>>[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])=[C:7]([H:8])[H:9],-3.90852877109
[H:1][C:2]=[C:3]1[C:4][C:5]([C:6]([H:7])([H:8])[H:9])[O:10]1>>[H:1][C:4]#[C:5][O:10][C:3](=[C:2])[C:6]([H:7])([H:8])[H:9],0.15533389267
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4][H:5].[C:6]([H:7])=[C:8]([H:9])[H:10],5.64208923678
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])[H:11],4.57419118832
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[C:3]([H:4])#[C:5][C:6]([H:7])[H:8].[H:1][O:2],4.99060874169
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([H:9])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.09511028454
[C:1][C:2]([H:3])=[C:4]([O:5][H:6])[O:7][H:8]>>[C:1]#[C:2][H:3].[C:4]([O:5][H:6])[O:7][H:8],2.23388015469
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6]1\[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:11]([C:8]([O:7])([H:9])[H:10])([H:12])[H:13],0.0799961716302
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-2.98643373906
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[O:12][H:13].[H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-2.03639450487
[C:3]([H:4])([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-2.80372095223
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9][O:10][H:11],2.08463270539
[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])([H:4])[C:5][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-6.847710426340001
[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6]1([H:7])[H:8]>>[O:1]=[C:2]([C:3]([H:4])=[O:5])[C:6]([H:7])[H:8],-0.0414102467394
